US04493840
A solution of 2-guanidino-4-[2-(3-cyano-2-methylisothioureido)ethylthiomethyl]thiazole (0.5 g) and 2-[5-dimethylaminomethylfuran-2-ylmethylthio]ethylamine (0.33 g) in acetonitrile (10 ml) was heated under reflux for 48 hours. A further portion of 2-[5-dimethylaminomethylfuran-2-ylmethylthio]ethylamine (0.5 g) was added and the mixture was heated under reflux for 16 hours. The mixture was evaporated to dryness and the residue was partitioned between water and ethyl acetate. The ethyl acetate layer was dried with anhydrous magnesium sulphate and evaporated. The residual gum was triturated four times with warm diethyl ether (10 ml). The residue was further purified by applying to Merck 60 F254 preparative plates and eluting with acetonitrile/ammonia (s.g. 0.880) 7:1 v/v. The product was redissolved in acetonitrile (5 ml), and the solution filtered and evaporated to give 2-guanidino-4-[2-(2-cyano-3-[2-(5-dimethylaminomethylfuran-2-ylmethylthio)ethyl]guanidino)-ethylthiomethyl]thiazole as pale brown gum (0.15 g).

reactant | 2-guanidino-4-[2-(3-cyano-2-methylisothioureido)ethylthiomethyl]thiazole | 0.5 g | N(C(=N)N)C=1SC=C(N1)CSCCNC(SC)=NC#N | C10H15N7S3
reactant | 2-[5-dimethylaminomethylfuran-2-ylmethylthio]ethylamine | 0.33 g | CN(C)CC1=CC=C(O1)CSCCN | C10H18N2OS
reactant | 2-[5-dimethylaminomethylfuran-2-ylmethylthio]ethylamine | 0.5 g | CN(C)CC1=CC=C(O1)CSCCN | C10H18N2OS
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 2-guanidino-4-[2-(2-cyano-3-[2-(5-dimethylaminomethylfuran-2-ylmethylthio)ethyl]guanidino)-ethylthiomethyl]thiazole | 0.15 g | N(C(=N)N)C=1SC=C(N1)CSCCNC(=NC#N)NCCSCC=1OC(=CC1)CN(C)C | C19H29N9OS3
